US07132426B2
Preparation of 3-[1-(2-Fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-pyrrolidine-1-carboxylic acid tert-butyl ester (Compound A140)
A mixture of 3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (431 mg, 2.3 mmol) and sodium hydride (92 mg, 3.82 mmol) in THF (10 mL) was stirred for 30 minutes at room temperature. Then 4-chloro-1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine (500 mg, 1.53 mmol) was added and stirred overnight at room temperature. The reaction mixture was quenched with water and the product extracted with ethyl acetate. The ethylacetate layer was dried over MgSO4, concentrated in vacuo, and purified by flash chromatography to afford compound A140 as a white solid (495 mg, 45%). Exact mass calculated for C21H24FN5O5S 477.15, found 478.2 (MH+).

reactant | 3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.3 mmol, 431 mg | C(C)(C)(C)OC(=O)N1CC(CC1)O | C9H17NO3
reactant | sodium hydride | 3.82 mmol, 92 mg | [H-].[Na+]
reactant | 4-chloro-1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine | 1.53 mmol, 500 mg | ClC1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)S(=O)(=O)C)F | C12H8ClFN4O2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-[1-(2-Fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-pyrrolidine-1-carboxylic acid tert-butyl ester | 495 mg, 45% | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)S(=O)(=O)C)F | C21H24FN5O5S
